US04943574
To a stirred suspension of 4.7 parts of 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol in 60 parts of ethanol were added 22.5 parts of a sodium hydroxide solution 1N. The whole was stirred till a clear solution was obtained. The mixture was evaporated to dry. The residue was dissolved in 18 parts of N,N-dimethylformamide. To the thus obtained solution was added at once a solution of 3.2 parts of iodomethane in 9 parts of N,N-dimethylformamide. After stirring for 30 minutes at room temperature, the whole was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was recrystallized from 8 parts of 4-methyl-2-pentanone. The product was filtered off and dried, yielding 3.3 parts (65.4%) of 6-(1H-imidazol-1-ylmethyl)-1-methoxy-1H-benzotriazole; mp. 132.4° C. (compound 229).

reactant | 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)O)C1 | C10H9N5O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 6-(1H-imidazol-1-ylmethyl)-1-methoxy-1H-benzotriazole | 65.4% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)OC)C1 | C11H11N5O
